US08802864B2
5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[3-fluoro-3′-(phenylcarbonyl)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
In a sealed microwave vial under nitrogen, a mixture of 4-(4-bromo-2-fluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (124 mg, 0.303 mmol), bis(pinacolato)diboron (81 mg, 0.318 mmol), potassium acetate (89 mg, 0.909 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (12.37 mg, 0.015 mmol) in 1,4-dioxane (2.5 mL) was stirred at 100° C. in an oil bath for 1 h. The reaction was cooled to room temperature. Analysis by LCMS showed complete conversion to the boronic ester intermediate (boronic ester cleavage to acid also observed on LCMS due to water/TFA conditions). 3-Bromobenzophenone (79 mg, 0.303 mmol) and 2M aq potassium carbonate (0.45 mL, 0.909 mmol) were added to the reaction mixture. The resultant reaction mixture was stirred at 100° C. in an oil bath for 1 h. The reaction was cooled to room temperature. The reaction mixture was then transferred to a separatory funnel and the layers were separated. The aqueous layer was adjusted to pH˜5 using 1N aq HCl and then extracted with ethyl acetate (2×50 mL). The organic layers were combined, dried over MgSO4, and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-5% methanol/ethyl acetate) provided the desired product as a white solid, which was dried in a vacuum oven (70° C.) overnight. The solid was further purified by reverse phase HPLC (10-80% acetonitrile/water+0.1% NH4OH). The desired product was dissolved in acetonitrile (2 mL) and water (10 mL), frozen, and lyophilized over the weekend. The solid was further dried in a vacuum oven (70° C.) overnight to give the title compound as a white solid (72 mg, 46%). MS(ES)+ m/e 511.1 [M+H]+.

reactant | 4-(4-bromo-2-fluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.303 mmol, 124 mg | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C17H18BrFN4O2
reactant | bis(pinacolato)diboron | 0.318 mmol, 81 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.909 mmol, 89 mg | C(C)(=O)[O-].[K+]
reactant | water TFA | O.C(=O)(C(F)(F)F)O
reactant | 3-Bromobenzophenone | 0.303 mmol, 79 mg | BrC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H9BrO
reactant | potassium carbonate | 0.909 mmol, 2M, 0.45 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[3-fluoro-3′-(phenylcarbonyl)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)C1=CC(=CC=C1)C(=O)C1=CC=CC=C1)F | C30H27FN4O3
